US08008283B2
In a similar manner to Example 9, bumetanide can be reacted with cetyltrimethylammonium hydroxide in water to yield cetyltrimethylammonium 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate.

reactant | bumetanide | CCCCNC=1C=C(C=C(C1OC=2C=CC=CC2)S(=O)(=O)N)C(=O)O | C17H20N2O5S
reactant | cetyltrimethylammonium hydroxide | [OH-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | water | O | H2O
product | cetyltrimethylammonium 3-aminosulfonyl-5-butylamino-4-phenoxybenzoate | NS(=O)(=O)C=1C=C(C(=O)[O-])C=C(C1OC1=CC=CC=C1)NCCCC.C(CCCCCCCCCCCCCCC)[N+](C)(C)C | InChI=1S/C19H42N.C17H20N2O5S/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(2,3)4;1-2-3-9-19-14-10-12(17(20)21)11-15(25(18,22)23)16(14)24-13-7-5-4-6-8-13/h5-19H2,1-4H3;4-8,10-11,19H,2-3,9H2,1H3,(H,20,21)(H2,18,22,23)/q+1;/p-1
